US07737145B2
4-(2,2,3,3-Tetrafluoropropoxy)benzaldehyde (250 mg, 1.06 mmol) and methyl 4-[[(1S,4S)-2,5-diazabicyclo[2.2.1]hept-2-yl]methyl]benzoate (260.7 mg, 1.06 mmol) were dissolved in dichloromethane (5.9 mL). After 15 min, sodium triacetoxyborohydride (448.7 mg, 2.12 mmol) was added. The reaction mixture was stirred overnight at room temperature. Then, saturated sodium bicarbonate solution was added. The mixture was stirred for 30 min and then extracted with dichloromethane. The combined organic layers were washed with water, dried over sodium sulfate, and concentrated under reduced pressure. Flash chromatography gave 177 mg of methyl 4-[[(1S,4S)-5-[[4-(2,2,3,3-tetrafluoropropoxy)phenyl]methyl]-2,5-diazabicyclo[2.2.1]hept-2-yl]methyl]benzoate; 1H NMR (300 MHz, CDCl3) δ 7.98 (d, 2H), 7.43 (d, 2H), 7.31 (d, 2H), 6.87 (d, 2H), 6.07 (tt, 1H), 4.33 (tt, 2H), 3.91 (s, 3H), 3.81 (d, 1H), 3.76 (d, 1H), 3.71 (d, 1H), 3.64 (d, 1H), 3.28 (br s, 2H), 2.84 (d, 2H), 2.65 (dd, 2H), 1.74 (s, 2H) ppm.

reactant | 4-(2,2,3,3-Tetrafluoropropoxy)benzaldehyde | 1.06 mmol, 250 mg | FC(COC1=CC=C(C=O)C=C1)(C(F)F)F | C10H8F4O2
reactant | methyl 4-[[(1S,4S)-2,5-diazabicyclo[2.2.1]hept-2-yl]methyl]benzoate | 1.06 mmol, 260.7 mg | [C@@H]12N(C[C@@H](NC1)C2)CC2=CC=C(C(=O)OC)C=C2 | C14H18N2O2
reactant | sodium triacetoxyborohydride | 2.12 mmol, 448.7 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 5.9 mL | ClCCl | CH2Cl2
product | methyl 4-[[(1S,4S)-5-[[4-(2,2,3,3-tetrafluoropropoxy)phenyl]methyl]-2,5-diazabicyclo[2.2.1]hept-2-yl]methyl]benzoate | 177 mg | FC(COC1=CC=C(C=C1)CN1[C@@H]2CN([C@H](C1)C2)CC2=CC=C(C(=O)OC)C=C2)(C(F)F)F | C24H26F4N2O3
